US06232271B1
b) 3-Amino-1-methyl-5-methylmercaptopyrazole
5.55 g (33.0 mmol) of 3-amino-4-cyano-1-methyl-5-methylmercaptopyrazole are heated to the boil with 50 ml of 32% strength aqueous sodium hydroxide solution for 24 hours. The reaction mixture is cooled, made slightly acidic with sodium dihydrogen phosphate solution, heated at 50° C. for 8 hours and subsequently extracted with ethyl acetate. The organic phase is dried over sodium sulfate, concentrated and purified by column chromatography (silica gel, hexane/ethyl acetate).

reactant | 3-amino-4-cyano-1-methyl-5-methylmercaptopyrazole | 33.0 mmol, 5.55 g | NC1=NN(C(=C1C#N)SC)C | C6H8N4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium dihydrogen phosphate | P(=O)(O)(O)[O-].[Na+]
product | 3-Amino-1-methyl-5-methylmercaptopyrazole | NC1=NN(C(=C1)SC)C | C5H9N3S
